US07842688B2
h) 2-(2-Methoxyphenyl)-2-methyl-[1,3]dioxane
The solution of 55.5 g of 2-methoxyacetophenone in hexane is admixed with stirring with 31.7 ml of 1,3-propanediol and 0.92 g of pyridinium-p-toluenesulphonate. The mixture is stirred under reflux (with water separator) over 4 days. The reaction mixture is cooled to room temperature, concentrated by evaporation, admixed with 1M sodium hydrogencarbonate (0.5 l) and extracted with dichloromethane (2×0.5 l). The organic phases are washed with water (0.5 l), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a yellowish oil and used crude in Example 44g.

reactant | 2-methoxyacetophenone | 55.5 g | COCC(=O)C1=CC=CC=C1 | C9H10O2
reactant | 1,3-propanediol | 31.7 ml | C(CCO)O | C3H8O2
reactant | pyridinium p-toluenesulphonate | 0.92 g | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 2-(2-Methoxyphenyl)-2-methyl-[1,3]dioxane | COC1=C(C=CC=C1)C1(OCCCO1)C | C12H16O3
